** SNSPDLibrary **

* This library contains subckts and
* parameters needed to model an
* snspd. Specifically there are two
* nanowire models that simulate the
* superconducting nanowire's physical
* response to a photon.
*
* The nanowireBCF (Basic Curve Fit) 
* model uses a group of switches 
* parallel to a variable resitor 
* to trace the i-v and pulse
* curves of a nanowire.
*
* The nanowireDynTherm (Dynamic Thermal)
* model uses sets of ancillary circuits to
* calculate and simulate the behavior
* of a nanowire. Each subcircuit is
* embedded into an snspd subcircuit that
* uses current pulses to simulate the
* arivals of a photons.

*************************************
* nanowireBCF                       *
*   basic curve-fitting-based model *
*   of a nanowire                   *
* gate: 1 uA in 2 ps pulse=photon   *
*   only connect to current source  *
* drain: one terminal of channel    *
* source: other terminal of channel *
*************************************

.subckt nanowireBCF gate gatereturn drain source
+Lind=100n Isw={Jc*width*thickness*C}
+width=100n thickness=4n sheetRes=400
+Tc=10.5 Tsub=2 Jc=50G C=1
  *Jc at T=Tsub in units of amps/m2
  *sheetRes has units of ohms/sq
  *Tc is critical temp and has units of K
  *Tsub is substrate temp and has units of K
  *C is constrition factor

*Dimensions
.PARAM length={width*Lind/inductivity}
.PARAM squares={length/width}

*Thermal Parameters
.PARAM kappa = 0.108
  * thermal conductivity
  * in W/m K
.PARAM heatCapacity = 4400
  * heat capacity per unit
  * volume in J/m^3 K
.PARAM hc = 50k
  * hc is the thermal conductivity
  * of the surface, units of W/m^2 K

*Electrical/Superconducting Parameters
.PARAM inductivity = {1.38p*sheetRes/Tc}
  * units of H/square
.PARAM  minSquares = 1
  * # of squares for min resistance
.PARAM maxSquares = 4
  * units of ohms/square
.PARAM psi={sheetRes*(Jc*thickness)**2
+/(hc*(Tc-Tsub))}
  * psi is the Stekly parameter.
.PARAM f={sqrt(2/psi)*.76}
  * quantify hysteresis of Ihs vs Isw
.PARAM Ihs={f*Isw}
  * hotspot current level

*Unitless Parameters
.PARAM gain={10}
  * factor photon signal gets multiplied by
.PARAM epsilon = {0.05}
  * provides margins for switching

** MAIN CIRCUIT **

* channel Inductor
L1 drain N1 Flux=({Lind}/(2.0*cos(0.67*
+asin(0.6*x/{Isw}))-1))*x Rser = 1e-100

* photodetection-event current sensor
V1 N1 N2 0

* photodetection current gain
B2 N2 N1 I=IF(I(V1)>0,10*I(R3),-10*I(R3))

* hotspot plateau current source
B1 N2 source I=IF(v(n2,source)>0,Ihs,-Ihs)

* hotspot limiting resistor
R2 N2 source {maxSquares*sheetRes}

* gate input resistor
R3 gate gatereturn 1

* current sense switch, detects photon arrival
W1 N2 N3 V1 currentSwitch OFF
W2 N3 N4 V1 negCurrentSwitch ON
  * starts in off state (short)
.PARAM hiIthresh = {Isw}
.PARAM loIthresh = {Isw*(f+epsilon)}
.model currentSwitch CSW(Ron=1e9 Roff=.01 
 +It={(hiIthresh+loIthresh)/2} 
 +Ih={(hiIthresh-loIthresh)/2})
.model negCurrentSwitch CSW(Ron=.01 Roff=1e9 
 +It={-(hiIthresh+loIthresh)/2} 
 +Ih={(hiIthresh-loIthresh)/2})

* voltage sense, prevents instant reset
S1 N4 N5 N2 source voltageSwitch OFF
S2 N5 source N2 source negVoltageSwitch ON

.PARAM Vthresh={minSquares*sheetRes*Ihs}
.model voltageSwitch SW(Ron=1e9 Roff=.01 
+Vt={Vthresh} Vh=0)
.model negVoltageSwitch SW(Ron=.01 Roff=1e9 
+Vt={-Vthresh} Vh=0)
.ends nanowireBCF

*************************************
* nanowireDynamic                   *
*   full dynamic model of nanowire  *
* gate: 1 uA in 2 ps pulse=photon   *
*   only connect to current source  *
* drain: one terminal of channel    *
* source: other terminal of channel *
*************************************

.subckt nanowireDynamic gate gatereturn drain
+ source params: Lind=100n Isw={Jc*
+width*thickness*C} width=100n thickness=4n
+ sheetRes=400 Tc=10.5 Tsub=2 Jc=50G C=1
  *Jc at T=Tsub in units of amps/m2
  *sheetRes has units of ohms/sq
  *Tc is critical temp and has units of K
  *Tsub is substrate temp and has units of K
  *C is constrition factor

*Dimensions
.PARAM length={width*Lind/inductivity}
.PARAM squares={length/width}

*Thermal Parameters
.PARAM kappa = 0.108
  * thermal conductivity W/m K
.PARAM heatCapacity = 4400
  * heat capacity J/m^3 K
.PARAM hc = 50k
  * thermal conductivity of surface W/m^2 K

*Electrical/Superconducting Parameters
.PARAM inductivity = {1.38p*sheetRes/Tc}
  * H/square
.PARAM  minSquares = {1/sheetRes}
  * # squares for minimum resistance
.PARAM Rnorm = {sheetRes*squares}
  * units of ohms/square
.PARAM psi={sheetRes*(Jc*thickness)**2/
+(hc*(Tc-Tsub))}
  * psi is the Stekly parameter.
.PARAM vo={sqrt(hc*kappa/thickness)/
+heatCapacity}
  * vo is characteristic velocity

.PARAM Ihs={sqrt(2/psi)*Isw}
.PARAM Vthresh={minSquares*sheetRes*Ihs}
.PARAM rho={sheetRes*thickness}

*Unitless Parameters
.PARAM gain={10}
  * factor photon signal gets multiplied by
.PARAM delta={0.005}
  * a small offset value for avoiding
  * singularity in hotspot velocity

** MAIN CIRCUIT **

*channel inductor
L1 drain N1 Flux=({Lind}/(2.0*cos(0.67*
+asin(0.6*x/{Isw}))-1))*x Rser = 1e-100

* hotspot resistor
B1 N1 source V=(v(N3)+abs(v(N3)))/2*i(L1)
  * v(N3) is resistance of hotspot

* hotspot limiter
R1 N1 source {Rnorm}
  * prevents channel resistance from
  * increasing without bound

*photon arrival sense resistor
R3 gate gatereturn 1e-100

** S/C SENSE SUBCIRCUIT **

**Superconducting to Resistive Transition

*dependent source used to store state
B2 N2 0 V=if((abs(i(L1))>Isw-gain*
+abs(i(R3)))|(abs(v(N1)-v(source))>{Vthresh}),1,0)
R2 N2 0 1
  * v(N2) is 0 if wire s/c, 1 if not

** HOTSPOT GROWTH INTEGRATOR SUBCIRCUIT **

*dependent current source that represents
*hotspot S-N boundary velocity
B3 0 N3 I=if(v(N2),(psi*(i(L1)/Isw)**2-2)
+/((sqrt(((psi*(i(L1)/Isw)**2-1)+abs(psi*
+(i(L1)/Isw)**2-1))/2)+delta)),0)

*capacitor that integrates hotspot velocity
C1 N3 0 {(width)/(2*sheetres*vo)}
  * hotspot resistance is v(N3)

*switch that shorts capacitor to ground when
*superconductivity is restored
S1 N3 0 N2 0 Srestore OFF
.model Srestore SW(Vt={0.5V} Roff=1m Ron=10G)

.ends nanowireDynamic